US06719520B2
3-(3-Fluoro-4-methylphenylamino)-4-[4-(methoxycarbonyl)phenyl]-1H-pyrrole-2,5-dione
A mixture of 3-(3-Fluoro-4-methylphenyl-amino)-4-(4-iodophenyl)-1H-pyrrole-2,5-dione (Example A705, 126 mg, 0.3 mmol), tetrakis(triphenyl phosphine)-palladium(0) (35 mg, 0.03 mmol) and methanol (10 mL) was placed in a 50 mL two necked round bottomed flask. One arm of the flask was sealed with a septum and to the other arm was fitted a reflux condenser, topped with a multiway tap connected respectively to vacuum, a carbon monoxide cylinder and to a balloon. Using the multiway tap, the flask was alternately evacuated and flushed with carbon monoxide, and the process repeated several times to unsure an atmosphere of carbon monoxide within the flask. The balloon was charged with carbon monoxide and this was then opened to the reaction flask for the duration of the reaction in order to maintain a slight positive pressure of carbon monoxide within the flask. Triethylamine (100 uL, 0.7 mmol) was added and the mixture heated at reflux for 16 hours. The mixture was cooled and diluted with ethyl acetate and the resulting solution washed with aqueous hydrochloric acid (1M, 50 mL), water (50 mL) and brine (50 mL). The organic solution was dried over magnesium sulphate and evaporated to afford a solid. This was chromatographed on silica gel using dichloromethane-ether (98:2 v/v) as eluent to afford the tide compound, a solid.

reactant | 3-(3-Fluoro-4-methylphenyl-amino)-4-(4-iodophenyl)-1H-pyrrole-2,5-dione | 0.3 mmol, 126 mg | FC=1C=C(C=CC1C)NC=1C(NC(C1C1=CC=C(C=C1)I)=O)=O | C17H12FIN2O2
reactant | methanol | 10 mL | CO | CH4O
reactant | carbon monoxide | [C]=O | CO
reactant | Triethylamine | 0.7 mmol, 100 uL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenyl phosphine)-palladium(0) | 0.03 mmol, 35 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(3-Fluoro-4-methylphenylamino)-4-[4-(methoxycarbonyl)phenyl]-1H-pyrrole-2,5-dione | FC=1C=C(C=CC1C)NC=1C(NC(C1C1=CC=C(C=C1)C(=O)OC)=O)=O | C19H15FN2O4
